US08022085B2
Step 4: 5-(3-(Cyclopropylamino)-6-methylbenzo[d]isoxazol-7-yl)-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one
A mixture of N-cyclopropyl-7-iodo-6-methylbenzo[d]isoxazol-3-amine (0.100 g, 0.32 mmol), triethylamine (0.17 ml, 1.25 mmol), 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.95 ml of 1.0 M in THF solution, 0.95 mmol), 2-(dicyclohexylphosphino)-2′-methylbiphenyl (0.023 g, 0.065 mmol) and palladium acetate (0.0036 g, 0.016 mmol) in 2.0 mL of dioxane in a sealed glass tube was heated in a microwave at 100° C. for 20 min. After cooling to RT, the reaction mixture was transferred to a 50 mL round-bottom flask and treated with 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (0.089 g, 0.26 mmol) and sodium carbonate (1.0 mL of 2.0 M aqueous solution). Tetakis(triphenylphosphine)palladium (0) (9 mg) was added, and the reaction mixture was heated at 110° C. in an oil bath for 5 h. It was cooled to RT, treated with 5 mL of 1 N NaOH and 60 mL of EtOAc. The organic phase was separated, washed with brine, separated from the aqueous layer, then dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by flash chromatography on SiO2(EtOAc/hexane=80/20) to give the title compound as a yellow crystalline solid. MS (ESI, pos.ion) m/z: 448.1 (M+1).

reactant | N-cyclopropyl-7-iodo-6-methylbenzo[d]isoxazol-3-amine | 0.32 mmol, 0.100 g | C1(CC1)NC1=NOC2=C1C=CC(=C2I)C | C11H11IN2O
reactant | triethylamine | 1.25 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.95 mmol, 1.0 M, 0.95 ml | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 2-(dicyclohexylphosphino)-2′-methylbiphenyl | 0.065 mmol, 0.023 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C1CCCCC1 | C25H33P
reactant | 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 0.26 mmol, 0.089 g | BrC1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2F)F | C13H8BrF2N3O
reactant | sodium carbonate | 2.0 M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 1 N, 5 mL | [OH-].[Na+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.016 mmol, 0.0036 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 5-(3-(Cyclopropylamino)-6-methylbenzo[d]isoxazol-7-yl)-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | C1(CC1)NC1=NOC2=C1C=CC(=C2C2=CC1=C(N(C2=O)C)N(N=C1)C1=C(C=CC=C1F)F)C | C24H19F2N5O2
